US08802864B2
b) 5-bromo-2-methyl-1-benzofuran
A solution of 2-[(4-bromo-2-formylphenyl)oxy]propanoic acid (5.08 mmol) in acetic anhydride (6 mL) was treated with sodium acetate (15.25 mmol). The resulting solution was heated to reflux and stirred overnight. The brown reaction solution was allowed to cool to room temperature, and was diluted with toluene (10 mL). The solution was then treated with 1N aq NaOH (10 mL) and was stirred at room temperature for 20 min. The solution was then further diluted with water (50 mL) and was extracted using ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting brown residue was purified by flash chromatography (hexanes), affording the title compound as a clear oil (660 mg, 62% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.73 (d, J=2.02 Hz, 1H) 7.47 (d, J=8.59 Hz, 1H) 7.35 (dd, J=8.72, 2.15 Hz, 1H) 6.58 (s, 1H) 2.45 (d, J=1.01 Hz, 3H).

reactant | 2-[(4-bromo-2-formylphenyl)oxy]propanoic acid | 5.08 mmol | BrC1=CC(=C(C=C1)OC(C(=O)O)C)C=O | C10H9BrO4
reactant | sodium acetate | 15.25 mmol | C(C)(=O)[O-].[Na+]
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
solvent | acetic anhydride | 6 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
product | 5-bromo-2-methyl-1-benzofuran | 660 mg, 62% yield | BrC=1C=CC2=C(C=C(O2)C)C1 | C9H7BrO
